US05374638
Step A: Preparation of methyl 2-(2-chloro-4-hydroxymethyl-6-methoxyphenoxy)-2-phenylacetate
A mixture of 0.50 g (2.65 mmol) of 3-chloro-4-hydroxy-5-methoxy-benzaldehyde, 0.668 g (2.92 mmol) of methyl 2-bromophenylacetate and K2CO3 (0.73 g, 5.3 mmol) in acetone (8 mL) was refluxed for 14 h. The mixture was cooled, filtered and evaporated in vacuo, and the residue was purified by flash chromatography on a silica gel column using 5% ethylacetate in hexane to afford 0.570 g (64%) of the title compound.

reactant | 3-chloro-4-hydroxy-5-methoxy-benzaldehyde | 2.65 mmol, 0.50 g | ClC=1C=C(C=O)C=C(C1O)OC | C8H7ClO3
reactant | methyl 2-bromophenylacetate | 2.92 mmol, 0.668 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
reactant | K2CO3 | 5.3 mmol, 0.73 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | methyl 2-(2-chloro-4-hydroxymethyl-6-methoxyphenoxy)-2-phenylacetate | 0.570 g, 64% | ClC1=C(OC(C(=O)OC)C2=CC=CC=C2)C(=CC(=C1)CO)OC | C17H17ClO5
